US04695649
Butyl p-hydroxybenzoate and terephthalic dichloride are allowed to react in a similar procedure to Example 5. The product is recrystallized from hexane-chloroform (1:1) to give di(p-butoxycarbonylphenyl)terephthalate, m.p. 128°-131° C., as white crystals.

reactant | Butyl p-hydroxybenzoate | CCCCOC(=O)C=1C=CC(=CC1)O | C11H14O3
reactant | terephthalic dichloride | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
product | di(p-butoxycarbonylphenyl)terephthalate | C(CCC)OC(=O)C1=CC=C(C=C1)OC(C1=CC=C(C(=O)OC2=CC=C(C=C2)C(=O)OCCCC)C=C1)=O | C30H30O8
